US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Hexylamide
4-{[4-(2-aminoethyl)phenyl]sulfonyl}-N-hexyl-1-piperidinecarboxamide (0.53 g, 1.34 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane (0.461 g, 1.14 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.260 g, 0.325 mmol).

reactant | 4-{[4-(2-aminoethyl)phenyl]sulfonyl}-N-hexyl-1-piperidinecarboxamide | 1.34 mmol, 0.53 g | NCCC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)NCCCCCC | C20H33N3O3S
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane | 1.14 mmol, 0.461 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Hexylamide | 0.325 mmol, 0.260 g | C(CCCCC)NC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H43N3O6S
